US05565479
2-(4-Imidazolyl)-8H-indeno[1,2-d]thiazole
Starting compounds: 2-bromo-1-indanone, 4-imidazole carbothioamide

reactant | 2-bromo-1-indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | 4-imidazole carbothioamide | N1C=NC(=C1)C(N)=S | C4H5N3S
product | 2-(4-Imidazolyl)-8H-indeno[1,2-d]thiazole | N1C=NC(=C1)C=1SC2=C(N1)C=1C=CC=CC1C2 | C13H9N3S
